US05866594
1) Synthesis of 4-chloro-3,7-dimethylindole-2-carboxylic acid (intermediate compound)
In 20 ml of ethanol and 5 ml of water were dissolved 1.50 g (6.0 mmol) of ethyl 4-chloro-7-methylindole-2-carboxylate and 0.5 g (9.0 mmol) of potassium hydroxide. The reaction mixture was refluxed for 4 hours. The solution was concentrated and then 1N HCl aqueous solution was added. The precipitates were separated by filtration, dissolved in 50 ml of diethyl ether and extracted with 30 ml of aqueous sodium hydrogencarbonate solution three times. The extract was washed with 30 ml of diethyl ether. The water layers were made acid with 1N HCl aqueous solution and extracted with 30 ml of diethyl ether three times. The extract was dried over anhydrous magnesium sulfate and concentrated to provide 0.91 g of beige crystals. Yield: 68%

reactant | ethyl 4-chloro-7-methylindole-2-carboxylate | 6.0 mmol, 1.50 g | ClC1=C2C=C(NC2=C(C=C1)C)C(=O)OCC | C12H12ClNO2
reactant | potassium hydroxide | 9.0 mmol, 0.5 g | [OH-].[K+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 4-chloro-3,7-dimethylindole-2-carboxylic acid | 0.91 g, Yield: 68% | ClC1=C2C(=C(NC2=C(C=C1)C)C(=O)O)C | C11H10ClNO2
